US04739021
A 250 mL flask, fitted with a magnetic stirrer, a reflux condenser and an addition funnel, was charged with zinc chloride (0.25 g, 1.83 mmol, anhydrous), triethylamine (36.2 mL, 0.260M, distilled from CaH2), crotonaldehyde (21.0 mL, 0.257M, dried over MgSO4 and distilled), and toluene (35 mL, distilled from sodium). 42 mL of phenyldimethyl chlorosilane (0.254M) were added dropwise via the addition funnel over one hour with stirring. The resulting mixture was heated slowly to about 65° and maintained at 65°-75° for a total of 6.5 hours with stirring. The mixture was cooled to ambient temperature and filtered to remove precipitated triethylamine hydrochloride (32 g, 92%) which was rinsed on the filter with 35 mL of dry toluene. The resulting filtrate and rinse were combined and distilled on a water pump at about 110 mm to remove solvent and unreacted starting materials. The resulting residue was distilled on an oil pump to give (1,3-butadienyloxy)phenyldimethylsilane (30.9 g, 59%) as a colorless liquid boiling at 57.8°-59.0°/0.10 mm (13 Pa).

reactant | triethylamine | 0.260M, 36.2 mL | C(C)N(CC)CC | C6H15N
reactant | crotonaldehyde | 0.257M, 21.0 mL | C(\C=C\C)=O | C4H6O
reactant | phenyldimethyl chlorosilane | 0.254M, 42 mL | C1(=CC=CC=C1)[Si](Cl)(C)C | C8H11ClSi
catalyst | zinc chloride | 1.83 mmol, 0.25 g | [Cl-].[Zn+2].[Cl-]
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | (1,3-butadienyloxy)phenyldimethylsilane | 30.9 g, 59% | C(=CC=C)O[Si](C)(C)C1=CC=CC=C1 | C12H16OSi
